.suckt  three_stage_fully_differential_op_amp_5_5_5 ibias in1 in2 out1 out2 sourceNmos sourcePmos vref
c1 out1FirstStage out1 
c2 out2FirstStage out2 
m1 outInputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos
m2 outInputVoltageBiasXXpXX2 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos
m3 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos
m4 outVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos
m5 FeedbackStageYout1 FeedbackStageYout1 sourceNmos sourceNmos nmos
m6 outFeedback outFeedback sourceNmos sourceNmos nmos
m7 FeedbackStageYsourceTransconductance1 ibias sourcePmos sourcePmos pmos
m8 FeedbackStageYsourceTransconductance2 ibias sourcePmos sourcePmos pmos
m9 FeedbackStageYout1 out2 FeedbackStageYsourceTransconductance1 FeedbackStageYsourceTransconductance1 pmos
m10 outFeedback vref FeedbackStageYsourceTransconductance1 FeedbackStageYsourceTransconductance1 pmos
m11 FeedbackStageYout1 out1 FeedbackStageYsourceTransconductance2 FeedbackStageYsourceTransconductance2 pmos
m12 outFeedback vref FeedbackStageYsourceTransconductance2 FeedbackStageYsourceTransconductance2 pmos
m13 out1FirstStage outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos
m14 FirstStageYsourceGCC1 outFeedback sourceNmos sourceNmos nmos
m15 out2FirstStage outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos
m16 FirstStageYsourceGCC2 outFeedback sourceNmos sourceNmos nmos
m17 out1FirstStage ibias sourcePmos sourcePmos pmos
m18 out2FirstStage ibias sourcePmos sourcePmos pmos
m19 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos
m20 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
m21 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
c3 out1 sourceNmos 
c4 out2 sourceNmos 
m22 out1SecondStage out1FirstStage sourceNmos sourceNmos nmos
m23 out1SecondStage ibias sourcePmos sourcePmos pmos
m24 out2SecondStage out2FirstStage sourceNmos sourceNmos nmos
m25 out2SecondStage ibias sourcePmos sourcePmos pmos
m26 out1 out1SecondStage sourceNmos sourceNmos nmos
m27 out1 outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos
m28 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos
m29 out2 out2SecondStage sourceNmos sourceNmos nmos
m30 out2 outInputVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 pmos
m31 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos
m32 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos
m33 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m34 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos
m35 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos
m36 outInputVoltageBiasXXpXX2 outInputVoltageBiasXXpXX2 VoltageBiasXXpXX2Yinner VoltageBiasXXpXX2Yinner pmos
m37 VoltageBiasXXpXX2Yinner outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos
m38 ibias ibias sourcePmos sourcePmos pmos
.end three_stage_fully_differential_op_amp_5_5_5

